US06313299B1
10 g of 1-benzyl-4-methanesulfonyloxymethyl-4-azidomethyl-pyrrolidine-3-one-O-methyloxime was dissolved in 100 ml of ethyl acetate and thereto 5 ml of 50% Raney nickel slurry was added and the resulting mixture was stirred for 3 hours under the pressure of hydrogen. The reaction mixture was filtered and concentrated under the reduced pressure to give 8.0 g of 1-benzyl-4-methanesulfonyloxymethyl-4-aminomethyl-pyrrolidine-3-one-O-methyloxime(yield: 86%). The obtained compound was dissolved in 200 ml of acetonitrile and thereto 3.9 ml of 1,8-diazabicyclo[5,4.0]undec-7-ene was dropped, and the resulting mixture was stirred for 8 hours, concentrated under the reduce pressure, and dissolved in 150 ml of dichloromethane, washed with 100 ml of water and with 100 ml of saline solution, dried with magnesium sulfate, filtered and concentrated under the reduced pressure to give 4.0 g of 6-benzyl-2,6-diazaspiro[3,4]octane-8-one-O-methyloxime(yield: 69.3%). The obtained compound and 2.5 ml of triethylamine were dissolved in 50 ml of dichloromethane and thereto 3.9 g of di-t-butyldicarbonate. The resulting mixture was stirred for 4 hours, washed with 50 ml of water, dried with magnesium sulfate, filtered and concentrated under the reduced pressure. The concentrated residue was purified by silicagel column chromatography(ethylacetate:normal hexane:dichloromethane=3:5:1) to live 4.6 g of the titled compound(yield: 80.9%).

reactant | 1-benzyl-4-methanesulfonyloxymethyl-4-azidomethyl-pyrrolidine-3-one-O-methyloxime | 10 g | CON=C1CN(CC1(CN=[N+]=[N-])COS(=O)(=O)C)CC1=CC=CC=C1 | C15H21N5O4S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Raney nickel | 5 ml | [Ni] | Ni
product | 1-benzyl-4-methanesulfonyloxymethyl-4-aminomethyl-pyrrolidine-3-one-O-methyloxime | 8.0 g, yield: 86% | CON=C1CN(CC1(CN)COS(=O)(=O)C)CC1=CC=CC=C1 | C15H23N3O4S
